US04661603
To a solution of 6.4 g of 2-chloro-5-(1-imidazolyl)- 2',6'-dimethyl-4'-carboxybenzophenone and 0.8 g of sodium hydroxide in 35 ml of water is added 1.4 g of sodium borohydride, and the mixture is stirred at 70°-75° C. for 3 hours. After completion of the reaction, a small amount of an insoluble substance is filtered off from the warm mixture and the filtrate is adjusted to pH 4 with concentrated hydrochloric acid under stirring at 80°-90° C. The precipitated crystals are collected by filtration under reduced pressure, washed with water and acetone and dried to give 6.1 g of α-(2,6-dimethyl-4-carboxyphenyl)-2-chloro-5-(1-imidazolyl)benzenemethanol, melting at 317°-320° C. with decomposition as white crystals.

reactant | 2-chloro-5-(1-imidazolyl)- 2',6'-dimethyl-4'-carboxybenzophenone | 6.4 g | ClC1=C(C(=O)C2=C(C=C(C=C2C)C(=O)O)C)C=C(C=C1)N1C=NC=C1 | C19H15ClN2O3
reactant | sodium hydroxide | 0.8 g | [OH-].[Na+]
reactant | sodium borohydride | 1.4 g | [BH4-].[Na+]
solvent | water | 35 ml | O | H2O
product | α-(2,6-dimethyl-4-carboxyphenyl)-2-chloro-5-(1-imidazolyl)benzenemethanol | 6.1 g | CC1=C(C(=CC(=C1)C(=O)O)C)C(O)C1=C(C=CC(=C1)N1C=NC=C1)Cl | C19H17ClN2O3
